US08168793B2
A suspension of 2-trifluoromethyl-nicotinic acid N′-(3,4-dimethoxy-5-nitro-benzoyl)-hydrazide (0.60 g, 1.44 mmol) in phosphorus oxychloride (10 mL) was stirred at 130° C. for three hours, becoming a pale yellow solution. The mixture was allowed to cool to room temperature and then poured onto ice-water (200 mL). The white precipitate was filtered off, washed with water and dried to give 3-[5-(3,4-dimethoxy-5-nitro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-trifluoromethyl-pyridine, 0.48 g (84%).

reactant | 2-trifluoromethyl-nicotinic acid N′-(3,4-dimethoxy-5-nitro-benzoyl)-hydrazide | 1.44 mmol, 0.60 g | COC=1C=C(C(=O)NNC(C2=C(N=CC=C2)C(F)(F)F)=O)C=C(C1OC)[N+](=O)[O-] | C16H13F3N4O6
solvent | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[5-(3,4-dimethoxy-5-nitro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-trifluoromethyl-pyridine | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NN=C(O1)C=1C(=NC=CC1)C(F)(F)F | C16H11F3N4O5
